US07153958B2
Hydrazine (3.2 ml) was added at room temperature to a mixture of 5-(3-chlorophenyl)-7-[(4-chlorophenyl)(1-methyl-1H-imidazol-5-yl)methyl]-1,5-dihydro-4,1-benzothiazepine-2(3H)-thione (described in Example B16a) (0.0063 mol) in THF (35 ml). The mixture was stirred at room temperature for 30 min, poured out into ice water, saturated with NaCl and extracted with DCM and a small amount of methanol. The organic layer was separated, dried, filtered and the solvent was evaporated, yielding 2.3 g (71.9%) of 5-(3-chlorophenyl)-7-[(4-chlorophenyl)(1-methyl-1H-imidazol-5-yl)methyl]-2-hydrazino-3,5-dihydro-4,1-benzothiazepine.

reactant | Hydrazine | 3.2 ml | NN | H4N2
reactant | 5-(3-chlorophenyl)-7-[(4-chlorophenyl)(1-methyl-1H-imidazol-5-yl)methyl]-1,5-dihydro-4,1-benzothiazepine-2(3H)-thione | 0.0063 mol | ClC=1C=C(C=CC1)C1SCC(NC2=C1C=C(C=C2)C(C2=CN=CN2C)C2=CC=C(C=C2)Cl)=S | C26H21Cl2N3S2
reactant | NaCl | [Na+].[Cl-]
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 5-(3-chlorophenyl)-7-[(4-chlorophenyl)(1-methyl-1H-imidazol-5-yl)methyl]-2-hydrazino-3,5-dihydro-4,1-benzothiazepine | 2.3 g, 71.9% | ClC=1C=C(C=CC1)C1SCC(=NC2=C1C=C(C=C2)C(C2=CN=CN2C)C2=CC=C(C=C2)Cl)NN | C26H23Cl2N5S
